US07728025B2
(Step 7) Production of 1-acetyl-2-(5-(4-(methanesulfonyl)phenoxy)-2-pyridin-2-yl-1H-benzimidazol-6-yl)pyrrolidin-3-yl acetate diastereomer A
The entitled compound was obtained as a white solid in the same method as in Example 338 (step 5) or in accordance with the method or by combining it with an ordinary method but using 4-(methanesulfonyl)phenol and (1-acetyl-2-(2-fluoro-5-nitro-4-((pyridin-2-ylcarbonyl)amino)phenyl)pyrrolidin-3-yl acetate diastereomer A.

reactant | 4-(methanesulfonyl)phenol | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
reactant | 1-acetyl-2-(2-fluoro-5-nitro-4-((pyridin-2-ylcarbonyl)amino)phenyl)pyrrolidin-3-yl acetate | C(C)(=O)OC1C(N(CC1)C(C)=O)C1=C(C=C(C(=C1)[N+](=O)[O-])NC(=O)C1=NC=CC=C1)F | C20H19FN4O6
product | 1-acetyl-2-(5-(4-(methanesulfonyl)phenoxy)-2-pyridin-2-yl-1H-benzimidazol-6-yl)pyrrolidin-3-yl acetate | C(C)(=O)OC1C(N(CC1)C(C)=O)C=1C(=CC2=C(NC(=N2)C2=NC=CC=C2)C1)OC1=CC=C(C=C1)S(=O)(=O)C | C27H26N4O6S
